US08202885B2
A solution of 1.5 g of [2-(7-methoxy-1H-benzoimidazol-2-yl)-ethyl]-methyl-carbamic acid tert.-butyl ester in 10 mL DCM was treated with 0.39 mL of TFA and stirred overnight at rt. The reaction mixture was concentrated in vacuo, redissolved in DCM and treated with diluted NaOH. After separation of the 2 phases the water phase was lyophilized to yield 380 mg of [2-(7-methoxy-1H-benzoimidazol-2-yl)-ethyl]-methyl-amine as beige solid.

reactant | [2-(7-methoxy-1H-benzoimidazol-2-yl)-ethyl]-methyl-carbamic acid tert.-butyl ester | 1.5 g | C(C)(C)(C)OC(N(C)CCC1=NC2=C(N1)C(=CC=C2)OC)=O | C16H23N3O3
reactant | TFA | 0.39 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
product | [2-(7-methoxy-1H-benzoimidazol-2-yl)-ethyl]-methyl-amine | 380 mg | COC1=CC=CC2=C1NC(=N2)CCNC | C11H15N3O
